*
.SUBCKT PDTC144VT 1 2 3 
*
R1 1 22 4.7E+004
Cres1 1 3 1.4E-013 
R21 11 22 5000 
R22 11 2 5000 
Cres2 11 3 5E-014 
* 
Q1 3 22 2 TC244V 
D1 22 3 DIODE 
*
.MODEL TC244V NPN 
+ IS = 1.947E-014 
+ NF = 0.9958 
+ ISE = 2.513E-014 
+ NE = 2.21 
+ BF = 377 
+ IKF = 0.22 
+ VAF = 76 
+ NR = 0.994 
+ ISC = 3E-013 
+ NC = 2 
+ BR = 20 
+ IKR = 0.16 
+ VAR = 16 
+ RB = 116 
+ IRB = 0.000145 
+ RBM = 4.5 
+ RE = 0.29 
+ RC = 0.58 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.01E-011 
+ VJE = 0.7749 
+ MJE = 0.377 
+ TF = 5.1E-010 
+ XTF = 6 
+ VTF = 2 
+ ITF = 0.2 
+ PTF = 0 
+ CJC = 2.89E-012 
+ VJC = 0.3 
+ MJC = 0.3026 
+ XCJC = 1 
+ TR = 2.3E-008 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.78 
*
.MODEL DIODE D 
+ IS = 1.062E-015 
+ N = 0.9801 
+ BV = 1000 
+ IBV = 0.001 
+ RS = 1000 
+ CJO = 0 
+ VJ = 1 
+ M = 0.5 
+ FC = 0 
+ TT = 0 
+ EG = 1.11 
+ XTI = 3 
.ENDS
*
